US04567176
1-Benzyl-2-thiohydantoin (8.07 g), iodomethane (10 ml) and methanol (50 ml) were warmed at 40°-42° C. for 8 hours. The reaction mixture was evaporated under reduced pressure, the residue was washed with diethyl ether and recrystallised from methanol-ethanol to give 1-benzyl-2-methylthio-2-imidazolin-4-one hydroiodide (4.86 g) m.p. 185°-190° C., as an impure light-buff coloured solid which was taken on to the next stage.

reactant | 1-Benzyl-2-thiohydantoin | 8.07 g | C(C1=CC=CC=C1)N1C(=S)NC(=O)C1 | C10H10N2OS
reactant | iodomethane | 10 ml | IC | CH3I
solvent | methanol | 50 ml | CO | CH4O
product | 1-benzyl-2-methylthio-2-imidazolin-4-one hydroiodide | 4.86 g | I.C(C1=CC=CC=C1)N1C(=NC(C1)=O)SC | InChI=1S/C11H12N2OS.HI/c1-15-11-12-10(14)8-13(11)7-9-5-3-2-4-6-9;/h2-6H,7-8H2,1H3;1H
